US06900201B2
To a flame dried flask is added ethanol (6 mL) and freshly cut sodium metal (62.4 mg, 2.71 mmol). The solution is stirred until homogenous. Recrystallized urea (98 mg, 1.63 mmol) is added and the solution is stirred at room temperature for 5 minutes. 1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.54 mmol) is added, and the solution is heated to 80° C. for 30 minutes, then cooled to 50° C. and stirred for 16 hours. The reaction is then quenched by the addition of 10 mL water, and 1N hydrochloric acid is added to adjust the pH to 5. The aqueous layer is extracted with ethyl acetate (3×20 mL). The combined ethyl acetate layers are washed with saturated sodium chloride, dried with magnesium sulfate, filtered, and concentrated under vacuum to produce crude product. This material is chromatographed on silica gel (ISCO MPLC purification, 30 minutes, 50-100% ethyl acetate gradient, Biotage flash 40s column) to provide 1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4.5]decane-6,8,10-trione.

reactant | sodium | 2.71 mmol, 62.4 mg | [Na] | Na
reactant | urea | 1.63 mmol, 98 mg | NC(=O)N | CH4N2O
reactant | 1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.54 mmol | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1)C(=O)OCC | C27H27N5O5
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-[6-(1-Pyridin-3-yl-1H-indazol-5-yloxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4.5]decane-6,8,10-trione | N1=CC(=CC=C1)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=N1)N1CCCC12C(NC(NC2=O)=O)=O | C24H19N7O4
